US07915250B2
To a solution of 1,1-dimethylethyl piperidine-1-carboxylate (0.50 g, 2.7 mmol) in anhydrous diethyl ether (9.0 mL) under anhydrous nitrogen gas was added N,N,N′,N′-tetramethylethane-1,2-diamine (0.41 mL, 2.7 mmol), and the solution was cooled to −78° C. To this solution was added (2-methylpropyl)lithium (2.1 mL, 1.4 M in cyclohexane, 3.0 mmol) in small portions. To this anion solution was added phenylmethyl 3-oxoazetidine-1-carboxylate (1.0 g, 5.4 mmol), prepared using procedures as described in Reference 3, in anhydrous ether (2.0 mL), while maintaining the internal temperature at less than −60° C. The solution was allowed to warm to room temperature and stirred overnight. The reaction was quenched with water, and partitioned between water and diethyl ether. The layers were separated and the aqueous layer was extracted with diethyl ether twice. The combined organic layers were dried (magnesium sulfate), filtered and concentrated in vacuo. Chromatography (silica gel, 3:1 hexanes/ethyl acetate) gave 0.13 g (13%) of 1,1-dimethylethyl 2-(3-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}azetidin-3-yl)piperidine-1-carboxylate. 1H NMR (400 MHz, CDCl3): 7.31 (m, 5H), 5.08 (s, 2H), 4.05 (d, 1H), 4.00 (d, 1H), 3.84 (d, 2H), 3.80 (broad s, 1H), 3.55 (broad s, 1H), 3.10 (broad s, 1H), 1.92 (m, 1H), 1.45-1.62 (m, 6H), 1.43 (s, 9H). MS (EI) for C21H30N2O5: 335 (M-tBu), 315 (M-OtBu).

reactant | 1,1-dimethylethyl piperidine-1-carboxylate | 2.7 mmol, 0.50 g | N1(CCCCC1)C(=O)OC(C)(C)C | C10H19NO2
reactant | N,N,N′,N′-tetramethylethane-1,2-diamine | 2.7 mmol, 0.41 mL | CN(CCN(C)C)C | C6H16N2
reactant | (2-methylpropyl)lithium | 3.0 mmol, 1.4 M, 2.1 mL | CC(C[Li])C
reactant | phenylmethyl 3-oxoazetidine-1-carboxylate | 5.4 mmol, 1.0 g | O=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C11H11NO3
solvent | diethyl ether | 9.0 mL | C(C)OCC | C4H10O
solvent | ether | 2.0 mL | CCOCC | C4H10O
product | 1,1-dimethylethyl 2-(3-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}azetidin-3-yl)piperidine-1-carboxylate | 0.13 g, 13% | OC1(CN(C1)C(=O)OCC1=CC=CC=C1)C1N(CCCC1)C(=O)OC(C)(C)C | C21H30N2O5
